US08198456B2
To a stirred and chilled (ice/water bath) solution of crude 5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-3-(2-hydroxy-ethylamino)-indazole-1-carboxylic acid tert-butyl ester (1 g) in THF (157 mL), under argon, was added sequentially 4-methylmorpholine (5.2 mL) and mesyl chloride (MsCl, CH3SO2Cl, 0.89 mL) dropwise. The mixture was allowed to warm to room temperature overnight before morpholine (41 mL) was added. Stirring was continued overnight before heating to 35° C. On cooling, triethylamine was added, the mixture concentrated to ca. one third the volume and the residue cooled (ice/water bath). The mixture was quenched with ice and aqueous sodium carbonate solution and the extracted with EtOAc. The combined organic extracts were dried and concentrated. The residue was taken up in THF (15 mL), HCl (15 mL) was added and the mixture was heated for 1.5 h at 60° C. (bath temperature). On cooling, the mixture was poured carefully onto aqueous sodium hydrogencarbonate solution and extracted with EtOAc. The combined organic extracts were dried and concentrated. The residue was purified by preparative reverse phase HPLC to give 1,4-dihydro-2,6-dimethyl-4-[3-[[2-(4-morpholinyl)ethyl]amino]-1H-indazol-5-yl]-3,5-pyridinedicarbonitrile (60 mg) (Cpd. No. 307, Table 8). 1H-NMR (DMSO-D6, 300 MHz): δ=11.46 (br s, 1H), 9.50 (br s, 1H), 7.56 (s, 1H), 7.25 (d, 1H), 7.17 (dd, 1H), 5.93 (t, 1H), 4.40 (s, 1H), 3.60 (m, 4H), 3.40 (partially obscured by solvent, 2H), 2.59 (t, 2H), 2.44 (m, 4H), 2.05 (s, 6H) ppm.

reactant | 5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-3-(2-hydroxy-ethylamino)-indazole-1-carboxylic acid tert-butyl ester | 1 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N)NCCO | C23H26N6O3
reactant | 4-methylmorpholine | 5.2 mL | CN1CCOCC1 | C5H11NO
reactant | mesyl chloride | 0.89 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | morpholine | 41 mL | N1CCOCC1 | C4H9NO
solvent | THF | 157 mL | C1CCOC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1,4-dihydro-2,6-dimethyl-4-[3-[[2-(4-morpholinyl)ethyl]amino]-1H-indazol-5-yl]-3,5-pyridinedicarbonitrile | 60 mg | CC=1NC(=C(C(C1C#N)C=1C=C2C(=NNC2=CC1)NCCN1CCOCC1)C#N)C | C22H25N7O
